US04709064
There was added 50 ml of a mixture of acetic acid, THF and water (3:1:1) to 3.26 g (10.4 mml) of (-)-3-t-butyldimethylsilyloxybutyric acid phenylthioester and the mixture was stirred at 50° C. for 24 hours. The obtained reaction mixture was concentrated and distilled at 128° to 130° C. under a pressure of 0.8 mmHg to give 1.91 g of (-)-3-hydroxybutyric acid phenylthioester.

reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | THF | C1CCOC1 | C4H8O
reactant | (-)-3-t-butyldimethylsilyloxybutyric acid phenylthioester | 3.26 g | C1(=CC=CC=C1)SOC(CC(C)O[Si](C)(C)C(C)(C)C)=O | C16H26O3SSi
solvent | water | O | H2O
product | (-)-3-hydroxybutyric acid phenylthioester | 1.91 g, Yield: 94% | C1(=CC=CC=C1)SOC(CC(C)O)=O | C10H12O3S
